US07419999B2
Intermediate 45.1: 1-butylcyclobutanecarboxylic acid
To a solution of LDA (30 mL, 2.0M, 60 mmol) in THF/heptane/ethylbenzene and anhydrous THF (30 mL) at 0° C. was added cyclobutane carboxylic acid (3.0 g, 30 mmol) dropwise. After addition was complete, the cold bath was removed, the reaction mixture was stirred at room temperature for 2 hr. Neat n-BuI (3.41 mL, 30 mmol) was added dropwise at room temperature. The mixture was stirred over night. To the mixture was added 2N HCl and the mixture was extracted with ethyl acetate. The combined organic phase was washed with water and brine to afford the title compound as a light yellow oil (quantitative), which was used in the next step without purification.

reactant | LDA | 60 mmol, 2.0M, 30 mL | [Li+].CC(C)[N-]C(C)C
reactant | cyclobutane carboxylic acid | 30 mmol, 3.0 g | C1(CCC1)C(=O)O | C5H8O2
reactant | n-BuI | 30 mmol, 3.41 mL | C(CCC)I | C4H9I
reactant | HCl | 2N | Cl | ClH
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-butylcyclobutanecarboxylic acid | C(CCC)C1(CCC1)C(=O)O | C9H16O2
